US04134899
Preparation of N-chloroacetyl-4,5,6,7-tetrahydrobenzo[b]-thiophen-4-amine
A mixture of 7.59 g of 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride is stirred in 60 ml of dry tetrahydrofuran and 10.1 g of triethylamine in 20 ml of dry tetrahydrofuran is added. After stirring under a nitrogen atmosphere for 15 minutes, 3.5 ml or 5.25 g of chloroacetyl chloride in 30 ml of dry tetrahydrofuran is added dropwise, while the temperature is maintained at 30° C. to 40° C. After an hour of stirring, the mixture is filtered, the filter cake is washed with tetrahydrofuran, and the filtrate is evaporated to dryness. The residue is then triturated with water and the title compound, m.p. 115° C. to 119° C., is collected and washed with water and hexane.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine hydrochloride | 7.59 g | Cl.S1C2=C(C=C1)C(CCC2)N
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 5.25 g | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-chloroacetyl-4,5,6,7-tetrahydrobenzo[b]-thiophen-4-amine | ClCC(=O)NC1CCCC=2SC=CC21 | C10H12ClNOS
